US07812028B2
a) 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(1-hydroxy-cyclopentylethynyl)-nicotinamide
The title compound was synthesized in analogy to Example 112, using 6-chloro-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide and 1-ethynylcyclopentanol as starting materials to yield the product as colorless solid, MS (ISP) 439.1, 441.2 (M+H)+.

reactant | 6-chloro-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | ClC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C18H18Cl2N2O2
reactant | 1-ethynylcyclopentanol | C(#C)C1(CCCC1)O | C7H10O
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(1-hydroxy-cyclopentylethynyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C#CC1(CCCC1)O | C25H27ClN2O3
